US03947466
A mixture of 0.1 mole of 2'-benzoyl-4'-chloroformanilide and 0.15 mole of hydrazine are stirred at room temperature in ethanol. Stirring is continued for 20 hours. The reaction mixture is chilled, and the precipitate filtered. The solid is washed and recrystallized from dimethylformamide to give 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline.

reactant | 2'-benzoyl-4'-chloroformanilide | 0.1 mole | C(C1=CC=CC=C1)(=O)C1=C(NC=O)C=CC(=C1)Cl | C14H10ClNO2
reactant | hydrazine | 0.15 mole | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline | NN1C=NC2=CC=C(C=C2C1(C1=CC=CC=C1)O)Cl | C14H12ClN3O
